US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 6-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one (2.0 g, 5.8 mmol) by reaction with m-CPBA (1.44 g, 6.41 mmol) to provide 6-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one followed by reaction with p-toluenesulfonyl chloride (1.22 g, 6.41 mmol) and ammonium hydroxide solution (10 mL) to provide 6-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one (0.29 g) as an off-white solid after chromatography on silica gel (elution with 5% methanol in dichloromethane) and recrystallization from dichloroethane, mp 163-165° C.

reactant | 6-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one | 5.8 mmol, 2.0 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCCCC(=O)C2=CC=CC=C2 | C22H21N3O
reactant | m-CPBA | 6.41 mmol, 1.44 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 6-(5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylhexan-1-one | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C=N2)CCCCCC(=O)C2=CC=CC=C2 | C22H21N3O2
